US05672609
2-(4-Hydroxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine
The 2-(4-benzyloxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine (3.0 g, 6.3 mmol), ammonium formate (2.0 g, 31 mmol), and 5% Pd/C (1.0 g, 0.5 mmol Pd) were combined in 150 mL of EtOH, and the reaction mixture was stirred at 50°-55 ° C. and followed by TLC (EtOAc/ Tol, 1:9). After 1 h, more ammonium formate (0.5 g, 8 mmol) was added and reaction mixture stirred at 50° C. for 30 min and no starting material remained. After cooling, the reaction mixture was filtered, concentrated, and the residue triturated with Et2O/ pet. ether. The white ppt was filtered and dried in vacuo to give 2.35g (97% yield) of product: mp 204°-205° C.; 1H NMR (CDCl3) d 3.83 (s, 3H, OCH3), 3.88 (s, 3H, OCH3), 4.85 (s, 1H, ArOH), 6.71-6.74 (d, 2H, J=9 Hz, ArH), 6.83-6.86 (d, 2H, J=9 Hz, ArH), 7.00-7.03 (d, 2H, J=9 Hz, ArH), 7.14-7.17 (d, 2H, J=9 Hz, ArH), 7.37-7.40 (d, 2H, J=9 Hz, ArH), 7.68-7.70 (m, 2H, ArH), 8.08-8.11 (d, 2H, J=9 Hz, ArH); MS(FD) 383(M+). Anal. Calcd for C25H21NO3 : C, 78.31; H, 5.52; N, 3.65. Found: C, 78.07; H, 5.79; N, 3.95.

reactant | 2-(4-benzyloxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine | 6.3 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C32H27NO3
reactant | ammonium formate | 31 mmol, 2.0 g | C(=O)[O-].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | ammonium formate | 8 mmol, 0.5 g | C(=O)[O-].[NH4+]
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd/C | 0.5 mmol, 1.0 g | [Pd] | Pd
product | 2-(4-Hydroxyphenyl)-3,6-bis(4-methoxyphenyl)pyridine | 2.35g, 97% yield | OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C25H21NO3
